US08748429B2
(E)-1-nitrohexa-1,5-diene
In an oven-dried 1 L round-bottomed flask pent-4-enal (11.3 g, 134 mmol) was dissolved in toluene (300 mL) to give a colorless solution. After cooling to 0° C., nitromethane (72.4 mL, 1343 mmol) and 1,1,3,3-tetramethylguanidine (1.685 mL, 13.43 mmol) were added. After the mixture was stirred at 0° C. for 60 min, TLC showed a major product (4:1 hexane/ethyl acetate). Methanesulfonyl chloride (15.7 mL, 202 mmol) and triethylamine (28 mL, 202 mmol) were added. The cooling bath was removed and the mixture was stirred at r.t. for 1 h. After 1 h, a further 0.5 equiv. of methanesulfonyl chloride (5.2 mL) and triethylamine (9.3 mL) were added to the mixture and the reaction continued for another h. It was quenched with saturated sodium bicarbonate solution and diluted with diethyl ether. The layers were separated and the aqueous layer was extracted with diethyl ether. The combined organic layers were washed with brine, dried with sodium sulfate, and concentrated under high vacuum to give a tan oil. The residue was purified by flash column chromatography up to 20% ethyl acetate/hexanes. The major uv-active fraction was pooled and concentrated to a light yellow oil (further dried under house vac over 3 days: 12.30 g, 72%): 1H NMR (4.00 MHz, CHLOROFORM-d) δ ppm 7.24 (ddd, J=13.74, 7.15, 6.96 Hz, 1H) 6.98 (d, J=13.55 Hz, 1H) 5.67-5.86 (m, 1H) 4.98-5.14 (m, 2H) 2.37 (q, J=7.03 Hz, 2H) 2.27 (q, J=6.94 Hz, 2H); 13C NMR (101 MHz, CHLOROFORM-d) δ ppm 140.82-141.82 (m, 1C) 139.50 (d, J=10.02 Hz, 1C) 135.60 (d, J=10.02 Hz, 1C) 115.56-116.67 (m, 1C) 30.49-31.82 (m, 1C) 26.73-27.94 (m, 1C).

reactant | pent-4-enal | 134 mmol, 11.3 g | C(CCC=C)=O | C5H8O
reactant | nitromethane | 1343 mmol, 72.4 mL | [N+](=O)([O-])C | CH3NO2
reactant | 1,1,3,3-tetramethylguanidine | 13.43 mmol, 1.685 mL | CN(C(=N)N(C)C)C | C5H13N3
reactant | Methanesulfonyl chloride | 202 mmol, 15.7 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 5.2 mL, 0.5 equiv. | CS(=O)(=O)Cl | CH3ClO2S
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 9.3 mL | C(C)N(CC)CC | C6H15N
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | triethylamine | 202 mmol, 28 mL | C(C)N(CC)CC | C6H15N
product | (E)-1-nitrohexa-1,5-diene | [N+](=O)([O-])\C=C\CCC=C | C6H9NO2
